US06087380
3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide, methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 75% of theory, C26H27N7O3 (485.55) Rf value: 0.31 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) EKA mass spectrum: (M+H)+ =486

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C#N)C)CCC(=O)OC | C26H24N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | methanol | CO | CH4O
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Yield: 75% | Cl.N1=C(C=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OC | InChI=1S/C26H27N7O3.ClH/c1-32-22(11-8-17-6-9-18(10-7-17)24(27)28)31-20-15-19(16-30-25(20)32)26(35)33(14-12-23(34)36-2)21-5-3-4-13-29-21;/h3-7,9-10,13,15-16H,8,11-12,14H2,1-2H3,(H3,27,28);1H
